US08975254B2
3-acetyl-N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 20 but starting from 3-acetyl-1H-pyrazole-5-carboxylic acid (215 mg; 1.37 mmol) and 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine hydrochloride (400 mg; 1.37 mmol). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% EtOAc/heptane) to obtain 267 mg (50%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.50 (s, 3H—overlapping with DMSO), 2.93 (t, 2H), 3.54-3.60 (m, 2H), 6.33 (d, 1H), 7.02 (d, 1H), 7.30 (s, 1H), 7.58-7.64 (m, 2H), 7.82 (d, 1H), 8.65 (broad s, 1H), 14.21 (s, 1H).

reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.37 mmol, 215 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | 2-(5-(3,4-dichlorophenyl)furan-2-yl)ethanamine hydrochloride | 1.37 mmol, 400 mg | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN
product | 3-acetyl-N-(2-(5-(3,4-dichlorophenyl)furan-2-yl)ethyl)-1H-pyrazole-5-carboxamide | 267 mg, 50% | C(C)(=O)C1=NNC(=C1)C(=O)NCCC=1OC(=CC1)C1=CC(=C(C=C1)Cl)Cl | C18H15Cl2N3O3
